US07067540B2
To a solution of 3-(tert -butyldimethylsilyloxymethyl)benzylamine (1.4 g, 5.5 mmol) and Et3N (1.5 mL, 11 mmol) in CH2Cl2 (28 mL) was added di-tert-butyl dicarbonate (1.3 g, 5.8 mmol), and the reaction mixture was stirred for 12 h. The reaction mixture was diluted with water and extracted with CH2Cl2 (3×100 mL). The combined organics were washed with brine, dried (MgSO4), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, CH2Cl2) to afford 3-(hydroxymethyl)benzylcarbamic acid tert-butyl ester as a yellow oil (1.4 g, 46%): 1H NMR (300 MHz, CDCl3) δ 7.32-7.28 (m, 1H), 7.18 (d, J=8 Hz, 1H), 7.12 (s, 1H), 7.08-7.01 (m, 1H), 4.60 (s, 2H), 4.04 (d, J=6 Hz, 2H), 1.36 (s, 9H)

reactant | 3-(tert -butyldimethylsilyloxymethyl)benzylamine | 5.5 mmol, 1.4 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(CN)C=CC1 | C14H25NOSi
reactant | Et3N | 11 mmol, 1.5 mL | CCN(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 5.8 mmol, 1.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 28 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-(hydroxymethyl)benzylcarbamic acid tert-butyl ester | 1.4 g, 46% | C(C)(C)(C)OC(NCC1=CC(=CC=C1)CO)=O | C13H19NO3
